US08207172B2
Step 2. Preparation of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine hydrochloride
To ethanol (60 mL) were sequentially added 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] (5.70 g, 20.2 mmol), 3-Chloro-4-(pyridin-2-ylmethoxyl)-phenylamine (4.78 g, 20.37 mmol), and HCl in ethanol (1N, 4 mL). The suspension was stirred with heating to 80° C., upon which time the contents turn brown and homogeneous. After 12 h, the dark orange-yellow heterogeneous mixture was removed from heating, and allowed to cool to rt. The contents were concentrated down to about 30 mL in volume and the precipitate was collected by filtration as a light-brown solid (10.1 g, 92%). 1H-NMR (DMSO-d6) δ 8.71 (d, 1H), 8.40 (s, 1H), 8.33 (s, 1H), 8.10 (td, 1H), 7.80 (d, 1H), 7.75 (d, 1H), 7.56 (m, 2H), 7.25 (d, 1H), 5.48 (br, 1H), 5.38 (s, 2H), 3.99 (s, 4H), 3.28 (t, 2H), 3.03 (s, 2H), 1.97 (t, 2H); LCMS RT=2.73 min; [M+H]+=481.1.

reactant | 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] | 20.2 mmol, 5.70 g | ClC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C12H11ClN2O2S
reactant | 3-Chloro-4-(pyridin-2-ylmethoxyl)-phenylamine | 20.37 mmol, 4.78 g | ClC=1C=C(C=CC1OCC1=NC=CC=C1)N | C12H11ClN2O
reactant | HCl | Cl | ClH
solvent | ethanol | 1N, 4 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine hydrochloride | Cl.ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | InChI=1S/C24H21ClN4O3S.ClH/c25-18-11-15(4-5-19(18)30-13-16-3-1-2-8-26-16)29-22-21-17-6-7-24(31-9-10-32-24)12-20(17)33-23(21)28-14-27-22;/h1-5,8,11,14H,6-7,9-10,12-13H2,(H,27,28,29);1H
